US09126952B2
199.0 ml (1.6 mol) of 4-methoxybenzyl alcohol in 0.5 l of toluene were added dropwise to a suspension of 95.8 g (2.4 mol) of sodium hydride [60% in paraffin oil] in 1.5 l of toluene between 15- and 20° C. The mixture was subsequently stirred at room temperature for a further 1 h. 193.6 g (0.67 mol) of 7-bromo-2,4-dichloroquinazoline were then added in portions, and the reaction mixture was stirred for 48 h. Conventional work-up gave 269.0 g of 7-bromo-2,4-bis(4-methoxybenzyloxy)quinazoline as oil [crude product; was reacted further directly].

reactant | 4-methoxybenzyl alcohol | 1.6 mol, 199.0 ml | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | 2.4 mol, 95.8 g | [H-].[Na+]
reactant | 7-bromo-2,4-dichloroquinazoline | 0.67 mol, 193.6 g | BrC1=CC=C2C(=NC(=NC2=C1)Cl)Cl | C8H3BrCl2N2
solvent | toluene | 0.5 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
product | 7-bromo-2,4-bis(4-methoxybenzyloxy)quinazoline | 269.0 g | BrC1=CC=C2C(=NC(=NC2=C1)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C24H21BrN2O4
